US06110937
3-Hydroxymethyl-1-methylpiperidine (0.4 mL, 3.14 mmol) and triphenylphosphine (1.01 g, 3.85 mmol) were added to a solution of 4-bromo-2,6-dimethylphenol (517 mg, 2.57 mmol) in tetrahydrofuran (10 mL) at 0° C. under dry nitrogen, followed by the dropwise addition of diethyl azodicarboxylate (0.57 mL, 3.60 mmol). The mixture was stirred at 0° C. for 4 hours and the solvent removed in vacuo. The residue was purified on silica gel, eluting with 5% methanol in dichloromethane containing 0.25% ammonium hydroxide, to give 3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine as an oil (531 mg, 66%).

reactant | 3-Hydroxymethyl-1-methylpiperidine | 3.14 mmol, 0.4 mL | OCC1CN(CCC1)C | C7H15NO
reactant | triphenylphosphine | 3.85 mmol, 1.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-2,6-dimethylphenol | 2.57 mmol, 517 mg | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | diethyl azodicarboxylate | 3.60 mmol, 0.57 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine | 531 mg, 66% | BrC1=CC(=C(OCC2CN(CCC2)C)C(=C1)C)C | C15H22BrNO
